US20010007873A1
F. 2-(2-Cyclopentyl4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yi)-pyridine
Prepared by a Pd cross-coupling of 2-cyclopentyl4-benzyloxy-benzeneboronic acid with 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine, as described in Example 1E, in 58% yield.

reactant | 2-cyclopentyl4-benzyloxy-benzeneboronic acid | C1(CCCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)B(O)O | C18H21BO3
reactant | 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | BrC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11BrN2
catalyst | Pd | [Pd] | Pd
product | 2-(2-Cyclopentyl4-benzyloxy-phenyl)-6-(2,5-dimethyl-pyrrol-1-yi)-pyridine | 58% yield | C1(CCCC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C29H30N2O
